US06878721B1
(R)-2-[Benzyl-(2-methyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanol
The title compound is prepared from (R)-2-(4-benzyloxy-3-nitro-phenyl)-oxirane (2.52 g) and benzyl-(2-methyl-indan-2-yl)-amine (2.20 g) by an analogous procedure to that used to prepare (S)-8-Benzyloxy-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxy-ethyl]-1H-quinolin-2-one in Example 19. The reaction is shown to be complete by TLC after 24 hours. The product is purified by flash column chromatography (silica, n-hexane/ethyl acetate 4:1). TLC (silica, n-hexane/ethyl acetate 4:1 Rf=0.30).

reactant | (R)-2-(4-benzyloxy-3-nitro-phenyl)-oxirane | 2.52 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]1OC1)[N+](=O)[O-] | C15H13NO4
reactant | benzyl-(2-methyl-indan-2-yl)-amine | 2.20 g | C(C1=CC=CC=C1)NC1(CC2=CC=CC=C2C1)C | C17H19N
reactant | (S)-8-Benzyloxy-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxy-ethyl]-1H-quinolin-2-one | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@@H](CNC1CC2=CC(=C(C=C2C1)CC)CC)O | C31H34N2O3
product | (R)-2-[Benzyl-(2-methyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanol | C(C1=CC=CC=C1)N(C[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C1(CC2=CC=CC=C2C1)C | C32H32N2O4
